US05744488
Methyl 5-(2-aminoethyl)-3-(3-pyridylmethyl)-1H-indole-1-propanoate
Trifluoroacetic acid (5 ml) was added to a stirred solution of methyl 5-(2-t-butoxycarbonylaminoethyl)-3-(3-pyridylmethyl)-1H-indole -1-propanoate (5.0 g) in dry dichloromethane (50 ml) and the solution was stirred for 3 hours. An additional 5 ml of trifluoroacetic acid was then added and stirring was continued for a further 2 hours. The solution was evaporated and the residue was partitioned between dichloromethane and dilute aqueous ammonia. The aqueous layer was separated and extracted withdichloromethane. The organic layers were combined and evaporated. Water (ca50 ml) was added followed by sufficient acetic acid to adjust the pH to ca4. The solution was washed twice with ethyl acetate and then made basic with concentrated aqueous ammonia solution. The mixture was extracted twice with dichloromethane and the combined extracts were dried (MgSO4) and evaporated to give the title compound as a gum (2.51 g), Rf. 0.15(SS3).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 5-(2-t-butoxycarbonylaminoethyl)-3-(3-pyridylmethyl)-1H-indole -1-propanoate | 5.0 g | C(C)(C)(C)OC(=O)NCCC=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C25H31N3O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 5-(2-aminoethyl)-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 2.51 g | NCCC=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C20H23N3O2
